US05677302
Synthesis of 3-[bis(ethoxycarbonyl)methyl]-1,2,4-thiadiazolo[4,5-a]benzimidazole
A mixture of 3-bromo-1,2,4-thiadiazolo[4,5-a]benzimidazole (0.2 g, 0.78 mmole), diethyl malonate (0.15 g, 0.94 mmol) and triethylamine (0.13 mL, 0.94 mmole) in 8 mL of THF was refluxed under a nitrogen atmosphere for 36 h. The resulting mixture was extracted with ethyl acetate, washed with water and 10% aqueous sodium sulfate. The organic layer was dried over magnesium sulfate to give the crude product, which was purified by flash chromatography (35% ethyl acetate: 65% hexane) to afford 0.14 g (54%) of the title compound as a yellow oil:

reactant | 3-bromo-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.78 mmole, 0.2 g | BrC1=NSC2=NC3=C(N21)C=CC=C3 | C8H4BrN3S
reactant | diethyl malonate | 0.94 mmol, 0.15 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | triethylamine | 0.94 mmole, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-[bis(ethoxycarbonyl)methyl]-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.14 g, 54% | C(C)OC(=O)C(C1=NSC2=NC3=C(N21)C=CC=C3)C(=O)OCC | C15H15N3O4S
